US05688995
61.4 g (0.5 mol) of 4-hydroxybenzonitrile in 500 ml of methylcellosolve are placed in a 1 l sulfonating flask fitted with stirrer, condenser, dropping funnel and internal thermometer. The batch is heated to 80 C., and then 73.3 g of 30% NaOH (0.55 mol) are run in slowly with vigorous stirring. The mixture is stirred for 15 minutes before commencing the dropwise addition, over 30 minutes, of 116.8 g (0.575 mol) of 3-bromomethylheptane. The reaction is continued at 100 C. for about 12 hours. The thin-layer chromatogram indicates virtually quantitative conversion. Solvent and excess bromide are removed in vacuo and the residue (an oil) is taken up in 500 ml of toluene. The mixture is subjected three times to extraction by shaking with water and the extracts are dried over sodium sulfate and concentrated to dryness. High-vacuum distillation via a 10 cm Vigreux column (127-132 C., 0.15 mm) gives 97.5 g (84% of theory) of 4-(2-ethylhexyloxy)benzonitrile as a coloured oil.

reactant | 4-hydroxybenzonitrile | 0.5 mol, 61.4 g | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | NaOH | 0.55 mol, 73.3 g | [OH-].[Na+]
reactant | 3-bromomethylheptane | 0.575 mol, 116.8 g | BrCC(CC)CCCC | C8H17Br
solvent | methylcellosolve | 500 ml | COCCO | C3H8O2
product | 4-(2-ethylhexyloxy)benzonitrile | 97.5 g, 84% | C(C)C(COC1=CC=C(C#N)C=C1)CCCC | C15H21NO
